US07087750B2
1-[(3,4-Dimethoxyphenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared from 4-(4-boc-piperazinyl)-indole and 3,4-dimethoxyphenylsulfonyl chloride according to Method 3: 1H NMR (270 MHz, DMSO-d6) δ 9.00 (br, 1 H), 7.82 (d, J=5 Hz, 1 H), 7.66 (d, J=8 Hz, 1 H), 7.57 (m, 1 H), 7.40 (d, J=3 Hz, 1 H), 7.24 (t, J=8 Hz, 1 H), 7.10 (d, J=8 Hz, 1 H), 6.90 (d, J=5 Hz, 1 H), 6.78 (d, J=8 Hz, 1 H), 3.78 (s, 6 H), 3.24 (m, 8 H); MS (ESI+) for m/z 402 (M+H)+.

reactant | 4-(4-boc-piperazinyl)-indole | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | 3,4-dimethoxyphenylsulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
product | 1-[(3,4-Dimethoxyphenyl)sulfonyl]-4-(1-piperazinyl)-1H-indole hydrochloride | Cl.COC=1C=C(C=CC1OC)S(=O)(=O)N1C=CC2=C(C=CC=C12)N1CCNCC1 | InChI=1S/C20H23N3O4S.ClH/c1-26-19-7-6-15(14-20(19)27-2)28(24,25)23-11-8-16-17(4-3-5-18(16)23)22-12-9-21-10-13-22;/h3-8,11,14,21H,9-10,12-13H2,1-2H3;1H
